US07951824B2
4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid (4-methoxymethyl-thiazol-2-yl)-amide
The title compound, was prepared from 4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid ethyl ester in accordance with the general method of example 26, step 6 using 4-Methoxymethyl-thiazol-2-ylamine (CAS: [640768-40-7]) instead of 3-chloro-aniline to yield the final compound as a light brown solid, MS (ISP): m/e=376.3 (M+H)+.

reactant | 4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC(=C1)C1=CC(=CC(=C1)F)F)C | C15H13F2NO2
reactant | 4-Methoxymethyl-thiazol-2-ylamine | COCC=1N=C(SC1)N | C5H8N2OS
product | 4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid (4-methoxymethyl-thiazol-2-yl)-amide | COCC=1N=C(SC1)NC(=O)C1=NC(=CC(=C1)C1=CC(=CC(=C1)F)F)C | C18H15F2N3O2S
